US07906517B2
2-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-ol (60 mg) is dissolved in tetrahydrofuran (1 ml) and thereto are added tert-butyl 3-hydroxy-propionate (336 mg) and triphenylphosphine (592 mg), and thereto is added dropwise diisopropyl azodicarboxylate (447 μl) and the mixture is stirred at 60° C. overnight. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. To the resulting residue is added isopropylether and the insoluble material is filtered and the filtrate is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→2:1) and NH-silica gel column chromatography (hexane:ethyl acetate=9:1→4:1) to give tert-butyl 3-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-propionate (43 mg). MS (m/z): 764 [M+H]+

reactant | 2-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-ol | 60 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)O)CC2=C(C=C(C(=C2)OC)OC)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C32H31F6N3O4
reactant | tert-butyl 3-hydroxy-propionate | 336 mg | OCCC(=O)OC(C)(C)C | C7H14O3
reactant | triphenylphosphine | 592 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 447 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | tert-butyl 3-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-propionate | 43 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCC(=O)OC(C)(C)C)CC2=C(C=C(C(=C2)OC)OC)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C39H43F6N3O6
